Name:  ___.           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
R groin pain
 
Major Surgical or Invasive Procedure:
___ - Exploratory laparotomy, extensive lysis of
adhesions, excision of small bowel x2, excision of a J pouch,  
right salpingoopherectomy, placement of prevena VAC,

___ - Exploratory laparotomy, abdominal washout and
closure.

 
History of Present Illness:
___ w/ PMH significant for UC s/p total colectomy w/ J pouch 
done by Dr. ___ in ___ p/w R groin pain from ___ 
___. At around 5pm on ___, patient describes acute 
episode of R groin pain while sitting down w/ subsequent 
episodes of emesis (3x, no nausea preceding). Had been lifting 
heavy objects previous few days, straining. Presented to 
___ ED found to have leukocytosis to 13.8. CT abdomen and 
pelvis was done which showed fluid filled loops of small bowel 
without definite transition point. Admitted to ED obs overnight. 
Leukocytosis subsequently resolved to 9.4, but another episode 
of emesis around 10am on ___ with PO intake. No bowel 
movements since ___. Transferred to ___ as had surgery 
here previously for further w/u of possible SBO. Of note had SBO 
in ___, ___ years after TAC w/ subsequent resolution with medical 
management (no NGT required).

 
Past Medical History:
Ulcerative colitis, migraines, Meniere's, GERD

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
NAD, AxOx3
C: RRR
P: nl respiratory effort
Abd: soft, NT/ND, ostomy p/p/v, incision c/d/I
ext: wwp
 
Pertinent Results:
___ 05:20AM BLOOD WBC-7.6 RBC-2.87* Hgb-8.4* Hct-26.9* 
MCV-94 MCH-29.3 MCHC-31.2* RDW-14.7 RDWSD-50.7* Plt ___
___ 05:20AM BLOOD Plt ___
___ 04:06AM BLOOD Glucose-170* UreaN-30* Creat-0.4 Na-140 
K-4.9 Cl-107 HCO3-26 AnGap-12
___ 05:20AM BLOOD WBC-7.6 RBC-2.87* Hgb-8.4* Hct-26.9* 
MCV-94 MCH-29.3 MCHC-31.2* RDW-14.7 RDWSD-50.7* Plt ___
___ 05:45AM BLOOD WBC-8.9 RBC-2.86* Hgb-8.3* Hct-26.9* 
MCV-94 MCH-29.0 MCHC-30.9* RDW-14.8 RDWSD-50.8* Plt ___
___ 05:26AM BLOOD WBC-10.9* RBC-3.09* Hgb-9.0* Hct-28.8* 
MCV-93 MCH-29.1 MCHC-31.3* RDW-14.8 RDWSD-51.2* Plt ___
___ 05:25AM BLOOD WBC-11.9* RBC-2.97* Hgb-8.7* Hct-27.5* 
MCV-93 MCH-29.3 MCHC-31.6* RDW-14.9 RDWSD-50.4* Plt ___
___ 04:42AM BLOOD WBC-13.2* RBC-2.90* Hgb-8.5* Hct-26.9* 
MCV-93 MCH-29.3 MCHC-31.6* RDW-14.9 RDWSD-50.4* Plt ___
___ 06:00AM BLOOD WBC-13.4* RBC-3.03* Hgb-8.8* Hct-27.9* 
MCV-92 MCH-29.0 MCHC-31.5* RDW-15.1 RDWSD-50.6* Plt ___
___ 03:36AM BLOOD WBC-16.0* RBC-3.22* Hgb-9.5* Hct-29.4* 
MCV-91 MCH-29.5 MCHC-32.3 RDW-15.1 RDWSD-50.8* Plt ___
___ 04:06AM BLOOD Glucose-170* UreaN-30* Creat-0.4 Na-140 
K-4.9 Cl-107 HCO3-26 AnGap-12
___ 05:20AM BLOOD Glucose-145* UreaN-22* Creat-0.5 Na-141 
K-4.4 Cl-107 HCO3-27 AnGap-11
___ 05:45AM BLOOD Glucose-141* UreaN-19 Creat-0.5 Na-139 
K-4.3 Cl-106 HCO3-25 AnGap-12
___ 05:26AM BLOOD Glucose-286* UreaN-21* Creat-0.5 Na-139 
K-4.7 Cl-107 HCO3-27 AnGap-10
___ 10:00AM BLOOD cTropnT-<0.01
___ 02:07AM BLOOD CK-MB-1 cTropnT-<0.01

CT PELVIS W/O CONTRAST Study Date of ___ 2:24 ___ 
IMPRESSION:  
  
Mechanical small-bowel obstruction with a transition point in 
the right 
pelvis, associated with a closed loop obstruction proximal to 
the J-pouch 
anastomosis, likely due to adhesive bands. 
  
CT ABD & PELVIS WITH CONTRAST Study Date of ___ 6:11 ___ 
IMPRESSION: 
1. New left retroperitoneal hematoma adjacent to the left psoas. 

2. Hematoma in the pelvis is new from the most recent prior CT. 
3. The patient is status post total colectomy and small bowel 
resection with an end ileostomy.  Small bowel loops are dilated 
up to 3.4 cm with a small amount of contrast seen passing to 
immediately proximal to the patient's and ileostomy.  The end 
ileostomy is decompressed, however no transition point is 
identified.  These findings could represent an early partial 
small bowel obstruction. 
4. Bilateral pleural effusions. 

CT PELVIS W/CONTRAST Study Date of ___ 3:04 ___
IMPRESSION:  
Status post total colectomy with end ileostomy in the left lower 
quadrant with recent J pouch removal.  Within the left 
hemiabdomen is a collectionn/hematoma with newly loculated air 
present within it.  Just superior to the suture line is a track 
of rectal contrast which extends superiorly 5 cm.  Findings 
consistent with leak at the rectal suture line. 

___ 05:52PM BLOOD CK-MB-2 cTropnT-<0.01
___ 04:06AM BLOOD Calcium-8.5 Phos-5.0* Mg-2.2
___ 05:20AM BLOOD Calcium-8.1* Phos-3.6 Mg-2.0
___ 05:45AM BLOOD Calcium-8.1* Phos-3.6 Mg-2.0
___ 05:26AM BLOOD Calcium-8.2* Phos-4.4 Mg-2.1
___ 04:59AM BLOOD Calcium-8.2* Phos-3.5 Mg-1.9
___ 05:25AM BLOOD Calcium-8.0* Phos-3.9 Mg-2.0
 
Brief Hospital Course:
Ms. ___ presented to at ___ as an OSH transfer on 
___ for an exploratory laparotomy, extensive lysis of 
adhesions, excision of small bowel x2, excision of a J pouch 
placement of prevena VAC on ___ and an exploratory 
laparotomy, abdominal washout and closure on ___ for a 
closed loop obstruction and ischemic bowel.

She tolerated the procedure well without complications (Please 
see operative note for further details). She was initially 
transferred to the ICU for monitoring after her operations but 
transferred to the floor on ___. She had poor PO intake and a 
concern for poor nutrition so nutrition was consulted and she 
was started on TPN on ___. She had CP that same day with 
negative troponins and she was started on a PPI. A repeat CT 
scan showed a pelvic collection that ___ thought was drainable 
and on ___ they placed a drain in the collection. Drains 1 
and 2 were d/c on ___ and ___ respectively and her ___ drain 
was d/c on ___. 

 
Neuro:  Pain was well controlled on oxycodone and Tylenol.
CV: Vital signs were routinely monitored during the patient's 
length of stay.  
Pulm:  The patient was encouraged to ambulate, sit and get out 
of bed, use the incentive spirometer, and had oxygen saturation 
levels monitored as indicated.
GI: The patient was initially kept NPO after the procedure. The 
patient was later advanced to and tolerated a regular diet at 
time of discharge as well as TPN. 
GU: Patient had a Foley catheter that was removed at time of 
discharge. Urine output was monitored as indicated. At time of 
discharge, the patient was voiding without difficulty.  
ID:  The patient's vital signs were monitored for signs of 
infection and fever. The patient was started on/continued on 
antibiotics as indicated.
Heme: The patient had blood levels checked post operatively 
during the hospital course to monitor for signs of bleeding. The 
patient had vital signs, including heart rate and blood 
pressure, monitored throughout the hospital stay.  
On ___, the patient was discharged to home. At discharge, 
she was tolerating a regular diet, passing flatus, +ostomy 
output, voiding.  She will follow-up in the clinic in ___ weeks. 
This information was communicated to the patient directly prior 
to discharge. 
IV Access: A subclavian central line was in place from the ICU 
and remained in place while the patient received TPN. There was 
a possibility that the patient would be discharged on TPN and a 
picc line was placed ___, however the PICC was not needed 
and was removed on ___.
 
Medications on Admission:
1. Bupropion
2. Fioricet
3. Ibuprofen
4. Lorazepam
5. Loperamide
6. Pantoprazole
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q4H 
2. Pantoprazole 40 mg PO Q12H 
3. Psyllium Wafer 2 WAF PO BID 
4. OxycoDONE (Immediate Release)  2.5-5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 capsule(s) by mouth every four (4) to six 
(6) hours Disp #*40 Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Closed loop obstruction, ischemic bowel, multiple adhesions.

 
Discharge Condition:
Stable

 
Discharge Instructions:
___ were admitted to the hospital after an exploratory 
laparotomy, extensive lysis of adhesions, right 
salpingoophorectomy, excision of small bowel x2, excision of a J 
pouch, placement of prevena VAC for your closed loop obstruction 
and ischemic bowel on ___ and an exploratory laparotomy and 
hematoma evacuation on ___. 
 ___ have recovered from these procedure well and ___ are now 
ready to return home. Samples from your small bowel, J-pouch, 
and fallopian tubes and ovary were taken and this tissue has 
been sent to the pathology department for analysis. ___ will 
receive these pathology results at your follow-up appointment. 
If there is an urgent need for the surgeon to contact ___ 
regarding these results they will contact ___ before this time. 
___ have tolerated a regular diet, passing gas and your pain is 
controlled with pain medications by mouth. ___ may return home 
to finish your recovery.

___ have a new ileostomy. The most common complication from a 
new ileostomy placement is dehydration. The output from the 
stoma is stool from the small intestine and the water content is 
very high. The stool is no longer passing through the large 
intestine which is where the water from the stool is reabsorbed 
into the body and the stool becomes formed. ___ must measure 
your ileostomy output for the next few weeks. The output from 
the stoma should not be more than 1200cc or less than 500cc. If 
___ find that your output has become too much or too little, 
please call the office for advice. The office nurse or nurse 
practitioner can recommend medications to increase or slow the 
ileostomy output. Keep yourself well hydrated, if ___ notice 
your ileostomy output increasing, take in more electrolyte drink 
such as Gatorade. Please monitor yourself for signs and symptoms 
of dehydration including: dizziness (especially upon standing), 
weakness, dry mouth, headache, or fatigue. If ___ notice these 
symptoms please call the office or return to the emergency room 
for evaluation if these symptoms are severe. ___ may eat a 
regular diet with your new ileostomy. However it is a good idea 
to avoid fatty or spicy foods and follow diet suggestions made 
to ___ by the ostomy nurses.

___ monitor the appearance of the ostomy and stoma and care 
for it as instructed by the wound/ostomy nurses. ___ stoma 
(intestine that protrudes outside of your abdomen) should be 
beefy red or pink, it may ooze small amounts of blood at times 
when touched and this should subside with time. The skin around 
the ostomy site should be kept clean and intact. Monitor the 
skin around the stoma for bulging or signs of infection listed 
above. Please care for the ostomy as ___ have been instructed by 
the wound/ostomy nurses. ___ will be able to make an appointment 
with the ostomy nurse in the clinic 7 days after surgery. ___ 
will have a visiting nurse at home for the next few weeks 
helping to monitor your ostomy until ___ are comfortable caring 
for it on your own.

___ have a long vertical incision on your abdomen. This incision 
can be left open to air or covered with a dry sterile gauze 
dressing if it becomes irritated from clothing. Please monitor 
the incision for signs and symptoms of infection including: 
increasing redness at the incision, opening of the incision, 
increased pain at the incision line, draining of 
white/green/yellow/foul smelling drainage, or if ___ develop a 
fever. Please call the office if ___ develop these symptoms or 
go to the emergency room if the symptoms are severe. ___ may 
shower, let the warm water run over the incision line and pat 
the area dry with a towel, do not rub.
No heavy lifting for at least 6 weeks after surgery unless 
instructed otherwise by Dr. ___ Dr. ___. 

___ will be prescribed a small amount of the pain medication 
oxycodone. Please take this medication exactly as prescribed. 
___ may take Tylenol as recommended for pain. Please do not take 
more than 4000mg of Tylenol daily. Do not drink alcohol while 
taking narcotic pain medication or Tylenol. Please do not drive 
a car while taking narcotic pain medication.

Thank ___ for allowing us to participate in your care! Our hope 
is that ___ will have a quick return to your life and usual 
activities. Good luck!

 
Followup Instructions:
___